US04657855
1.5% (v/v) dodecanol
Test devices were prepared as in Experiment 7.3.3 except that the acetone solution contained, in place of the phenylpyrrole, 1.3 mM 3-(N-tosyl-L-alaninyloxy)-5-(p-chlorophenyl)pyrrole.

reactant | phenylpyrrole | C1(=CC=CC=C1)C=1NC=CC1 | C10H9N
reactant | 3-(N-tosyl-L-alaninyloxy)-5-(p-chlorophenyl)pyrrole | 1.3 mM | S(=O)(=O)(C1=CC=C(C)C=C1)N[C@@H](C)C(=O)OC1=CNC(=C1)C1=CC=C(C=C1)Cl | C20H19ClN2O4S
solvent | acetone | CC(=O)C | C3H6O
product | dodecanol | C(CCCCCCCCCCC)O | C12H26O
